US07402684B2
(2S,4R)-4-Benzyloxy-2-(4-phenoxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
To a solution of (2S,4R)-4-benzyloxy-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (900 mg, 2.93 mmol) in anhydrous THF (2 mL) was added 4-phenoxyphenyl (655 mg, 3.52 mmol) in THF (2 mL) and triphenyl phosphine (997 mg, 3.8 mmol) in THF (1 mL). The resulting mixture was cooled to 0° C. using ice-water bath and purged with nitrogen. Diisopropyl azodicarboxylate (770 mg, 3.8 mmol) was dissolved in 3 mL of THF and added to above solution dropwise over a period of 20 min under nitrogen. Reaction then was heated at 70° C. for 16 h. THF was removed in vacuo and crude mixture was purified by silica gel flash chromatography (10% EtOAc/hexanes) to obtain the product. To a solution of the product (100 mg, 0.21 mmol) in dioxane (1 mL) was added 4M HCl in dioxane (5 mL) at rt and the resulting mixture was stirred for 2 h at that temperature. The solvent was removed in vacuo to obtain thick oil. The oil was neutralized with saturated sodium bicarbonate solution and product was extracted with EtOAc. Organic layers were combined and washed with 1N NaOH, water, brine, dried over anhydrous MgSO4 and concentrated to give the crude product. The crude product was purified by silica gel flash chromatography (2% MeOH/dichloromethane) to obtain the title product (45 mg, 57%): MS; m/z 376.7 (M+H); 1H NMR (400 MHz, DMSO-d6); δ 1.57-1.64 (m, 1H), 1.96-2.02 (m, 1H), 2.87-2.90 (m, 1H), 2.98-3.02 (m, 1H), 3.51-3.57 (m, 1H), 3.77-3.85 (m, 2H), 4.08-4.11 (m, 1H), 4.45 (s, 2H), 6.90-6.98 (m, 6H), 7.04-7.08 (m, 1H), 7.26-7.36 (m, 7H), 7.61-7.66 (m, 4H), 8.87 (s, 3H); HPLC (ELSD); 99%; Elemental analysis. Calc C, 76.77H, 6.71 N, 3.73. Found C, 76.66 H, 6.81 N, 3.92.

reactant | (2S,4R)-4-benzyloxy-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.93 mmol, 900 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OCC1=CC=CC=C1)CO | C17H25NO4
reactant | triphenyl phosphine | 3.8 mmol, 997 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 3.8 mmol, 770 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 4M | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (2S,4R)-4-Benzyloxy-2-(4-phenoxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 45 mg, 57% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OCC1=CC=CC=C1)COC1=CC=C(C=C1)OC1=CC=CC=C1 | C29H33NO5
